US06809094B2
2-AMINO-4-PYRIDIN-3-YL-PHENOL
A mixture of 2-nitro-4-pyridin-3-yl-phenol (80 mg, 0.37 mmol), 10% Pd-C (8.0 mg), acetic acid (21 μL, 0.37 mmol) in MeOH (3.7 mL) was hydrogenated at 45 PSI at RT for 16 h. The mixture was filtered through a pad of celite and concentrate to afford 70 mg (100%) of the title compound as a brown oil: 1H NMR (CDCl3, 400 MHz) δ 8.57 (d, 1H, J=1.7 Hz), 8.30 (d, 1H, J=5.0 Hz), 7.75 (dt, 1H, J=7.9, 2.1 Hz), 7.25 (dd, 1H, J=7.9, 5.0 Hz), 6.77-6.69 (m, 2H), 3.94 (br s, 3H); 13C NMR (CDCl3, 100 MHz) δ 147.0, 146.5, 145.7, 137.6, 135.5, 134.8, 129.3, 124.0, 118.1, 115.4, 114.6; MS (Cl) m/z 187.1 (M+1); HPLC retention time=1.29 min.

reactant | 2-nitro-4-pyridin-3-yl-phenol | 0.37 mmol, 80 mg | [N+](=O)([O-])C1=C(C=CC(=C1)C=1C=NC=CC1)O | C11H8N2O3
reactant | acetic acid | 0.37 mmol, 21 μL | C(C)(=O)O | C2H4O2
solvent | MeOH | 3.7 mL | CO | CH4O
catalyst | Pd-C | 8.0 mg | [Pd] | Pd
product | 2-AMINO-4-PYRIDIN-3-YL-PHENOL | 70 mg, 100% | NC1=C(C=CC(=C1)C=1C=NC=CC1)O | C11H10N2O
